US06462038B1
A solution of 2-isopropyloxy-6-isopropylamino-7-methoxy-4-(trifluoromethyl)quinoline (0.10 g, 0.30 mmol), thiophenol (0.24 g, 2.2 mmol), and NaH (60% dispersion in mineral oil, 78 mg, 2.0 mmol) in 2 mL DMF was heated at 110° C. for 5 h, whereupon the mixture was poured over ice, and adjusted to pH 5 with 2M NaHSO4. The aqueous layer was extracted with EtOAc (2×), and the combined organic layers were washed sequentially with water (2×) and brine, dried over MgSO4, filtered and concentrated. Flash chromatography (4:1 hexanes:EtOAc) afforded 90 mg (95%) of 2-isopropyloxy-7-hydroxy-6-isopropylamino-4-(trifluoromethyl)quinoline, a yellow oil. Data for 2-isopropyloxy-7-hydroxy-6-isopropylamino-4-(trifluoromethyl)quinoline: 1H NMR (400 MHz, CDCl3) δ 7.16 (s, 1H), 6.98 (s, 1H), 6.92 (s, 1H), 5.37 (sept, 1H, J=6.2), 3.70 (sept, 1H, J=6.3), 1.35 (d, 6H, J=6.2), 1.29 (d, 6H, J=6.3).

reactant | 2-isopropyloxy-6-isopropylamino-7-methoxy-4-(trifluoromethyl)quinoline | 0.30 mmol, 0.10 g | C(C)(C)OC1=NC2=CC(=C(C=C2C(=C1)C(F)(F)F)NC(C)C)OC | C17H21F3N2O2
reactant | thiophenol | 2.2 mmol, 0.24 g | C1(=CC=CC=C1)S | C6H6S
reactant | NaH | 2.0 mmol, 78 mg | [H-].[Na+]
reactant | NaHSO4 | 2M | OS(=O)(=O)[O-].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-isopropyloxy-7-hydroxy-6-isopropylamino-4-(trifluoromethyl)quinoline | 90 mg, 95% | C(C)(C)OC1=NC2=CC(=C(C=C2C(=C1)C(F)(F)F)NC(C)C)O | C16H19F3N2O2
